US05364871
A mixture of 6-hydroxymethyl-2-pyridinecarboxamide (80 g) and acetic anhydride (198.8 ml) in tetrahydrofuran (800 ml) was heated under reflux for 24 hours. The reaction mixture was added to a mixture of ethyl acetate and water and the mixture was adjusted to pH 8 with potassium carbonate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated to give 6 -acetoxymethyl-2-pyridinecarboxamide (93.34 g).

reactant | 6-hydroxymethyl-2-pyridinecarboxamide | 80 g | OCC1=CC=CC(=N1)C(=O)N | C7H8N2O2
reactant | acetic anhydride | 198.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6 -acetoxymethyl-2-pyridinecarboxamide | 93.34 g | C(C)(=O)OCC1=CC=CC(=N1)C(=O)N | C9H10N2O3
